US06878714B2
A mixture of 3-nitrobezenesulfonyl chloride (664 mg, 3.0 mmol) and methylpiperazine (600 mg, 6.0 mmol) in EtOH was stirred for 2 h at RT. The reaction was concentrated and triturated in Et2O to yield a yellowish solid, 3-[(4-methylpiperazinyl)sulfonyl]-1-nitrobenzene, and was used in next step without further purification.

reactant | 3-nitrobezenesulfonyl chloride | 3.0 mmol, 664 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | methylpiperazine | 6.0 mmol, 600 mg | CN1CCNCC1 | C5H12N2
solvent | EtOH | CCO | C2H6O
product | 3-[(4-methylpiperazinyl)sulfonyl]-1-nitrobenzene | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)[N+](=O)[O-] | C11H15N3O4S
